US07723329B2
A solution of toluene-4-sulfonic acid 2-[1-methyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester (0.39 g, 0.73 mmol) in 2.0 M dimethylamine in THF (10 mL, 20 mmol) was stirred for 16.5 hours at 80° C. in a sealed tube. After cooling to ambient temperature, the reaction mixture was solvent evaporated. The residue was partitioned in ethyl acetate and aqueous sodium bicarbonate. The organic phase was washed with brine, dried with anhydrous magnesium sulfate, filtered, concentrated and dried at 80° C. in vacuo for 35 minutes to give dimethyl-{2-[1-methyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl}-amine a light brown-orange semi-solid (0.257 g, 86.2%). This was dissolved in chloroform, and ethereal hydrochloride was added. The mixture was concentrated and dried for 25 hours at 83° C. in vacuo to give the hydrochloride as a buff-colored foam (0.254 g). Mass Spectrum (+EI, [M+H]+) m/z 410. 1HNMR (500 MHz, DMSO-d6): δ10.25 (s, 1H), 8.74-8.76 (m, 1H), 8.51 (dd, 1H, J=7.44 Hz and 1.22 Hz), 8.26-8.28 (m, 1H), 8.03-8.05 (m, 1H), 7.71-7.74 (m, 2H), 7.56-7.66 (m, 2H), 7.39 (d, 1H, J=2.08 Hz), 7.22 (dd, 1H, J=9.28 Hz and 2.32 Hz), 4.39-4.42 (m, 2H), 4.05 (s, 3H), 3.50-3.52 (m, 2H), 2.83 ppm (s, 6H).

reactant | toluene-4-sulfonic acid 2-[1-methyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester | 0.73 mmol, 0.39 g | CN1N=C(C2=CC(=CC=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C27H24N2O6S2
reactant | THF | 20 mmol, 10 mL | C1CCOC1 | C4H8O
reactant | dimethylamine | 2.0 M | CNC | C2H7N
product | dimethyl-{2-[1-methyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl}-amine | CN(CCOC=1C=C2C(=NN(C2=CC1)C)S(=O)(=O)C1=CC=CC2=CC=CC=C12)C | C22H23N3O3S
